US08309572B2
2-[(1-methyl-1-phenylethyl)oxy]ethanol
A catalytic amount of either p-toluene sulfonic acid.H2O or Bio-Rad SCX resin (analytical grade, 5.1 meq/g, AG 50W-X8) was added to -methylstyrene (0.5 mL, 3.85 mmol) and ethylene glycol (0.21 mL, 3.85 mmol), and the reaction was stirred at rt for 5 days. The reaction mixture was loaded directly onto a SPE cartridge (10 g silica) and eluted with the following 10 mL fractions: 10% EtOAc/hexanes (fractions 1, 2), 30% EtOAc/hexanes (fractions 3, 4), and 50% EtOAc/hexanes (fractions 5, 6) to give the title compound (30.5 mg, 4%) for both conditions. The product was characterized by 1H NMR (400 MHz) in CDCl3.

reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylstyrene | 3.85 mmol, 0.5 mL | CC=CC1=CC=CC=C1 | C9H10
reactant | ethylene glycol | 3.85 mmol, 0.21 mL | C(CO)O | C2H6O2
solvent | H2O | O | H2O
product | 2-[(1-methyl-1-phenylethyl)oxy]ethanol | 30.5 mg, 4% | CC(C)(C1=CC=CC=C1)OCCO | C11H16O2
